US07067540B2
Preparation of 3-[3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-fluoro-N-methylbenzamide
To a reaction vessel (borosilicate culture tube) was added 3-[3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-fluorobenzoic acid (0.300 g, 0.708 mmol) and 1-hydroxybenzotriazole (0.048 g, 0.45 mmol). N,N-Dimethylformamide (3 mL) was added to the reaction vessel followed by approximately 1.2 g of the polymer bound carbodiimide resin (1.38 mmol/g). Additional N,N-dimethylformamide (2 mL) was then added to the reaction vessel. The parallel reaction apparatus was then orbitally shaken (Labline Benchtop Orbital Shaker) at approximately 200 RPM at room temperature for 15 minutes. N-Methyl amine (1 mL, 2 mmol) was then added to the reaction vessel and the reaction apparatus was orbitally shaken at room temperature overnight. At this time the reaction was diluted with tetrahydrofuran (20 mL) and treated with approximately 2.17 g of polyamine resin (2.63 mmol/g) and approximately 2.8 g of methylisocyanate functionalized polystyrene (1.5 mmol/9) and the orbital shaking was continued at 200 RPM at room temperature for 3 hours. The reaction vessel was then opened and the solution phase product was separated from the insoluble quenched byproducts by filtration and collection into a vial. After partially evaporation the insoluble byproducts were rinsed with tetrahydrofuran (2×10 mL). The filtrate was evaporated by blowing N2 over the vial and the resulting solid was triturated with diethyl ether to give an off-white solid. (0.168 g, 59%) 1H NMR (400 MHz, CD3OD) δ 8.02 (dddd, J=2, 4.4, 7.2 and 8.4 Hz, 1H), 7.80 (dd, J=2 and 6.8 Hz, 1H), 7.62 (q, J=8 and 14.4 Hz, 1H), 7.34 (t, J=8.8 Hz, 1H), 7.04 (m, 2H), 6.69 (s, 1H), 5.36 (s, 2H), 3.29 (s, 3H), 1.98 (s, 3H) ppm. 19F NMR (400 MHz, CD3OD) δ−108.94 (1 F), −113.55 (1 F), −117.76 (1 F) ppm. ES-HRMS m/z 437.0861 (M+H calcd for C21H17ClF3N2O3 requires 437.0874).

reactant | 3-[3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-fluorobenzoic acid | 0.708 mmol, 0.300 g | ClC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C=1C=C(C(=O)O)C=CC1F)=O | C20H13ClF3NO4
reactant | 1-hydroxybenzotriazole | 0.45 mmol, 0.048 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | carbodiimide | N=C=N | CH2N2
reactant | N-Methyl amine | 2 mmol, 1 mL | CN | CH5N
reactant | methylisocyanate | 1.5 mmol, approximately 2.8 g | CN=C=O | C2H3NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | N,N-Dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 3-[3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-fluoro-N-methylbenzamide | ClC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C=1C=C(C(=O)NC)C=CC1F)=O | C21H16ClF3N2O3
